US08030500B2
4-Fluoro-1-(2-methoxypyridin-4-yl)-1-(3-(pyrazin-2-yl)phenyl)-1H-isoindol-3-amine acetate
1-(3-Bromophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine (0.150 g, 0.36 mmol), 2-(tributylstannyl)pyrazine (0.120 mL, 0.38 mmol), tetrakis(triphenylphosphine)palladium(0) (0.042 g, 0.04 mmol) and DMF (4 mL) were put in microwave vial and irradiated in a microwave reactor at 150° C. for 20 min. The resulting product mixture was filtered and purified by preparative-HPLC to give the title compound 0.083 g, (48.5% yield).

reactant | 1-(3-Bromophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine | 0.36 mmol, 0.150 g | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)OC | C20H15BrFN3O
reactant | 2-(tributylstannyl)pyrazine | 0.38 mmol, 0.120 mL | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 0.042 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Fluoro-1-(2-methoxypyridin-4-yl)-1-(3-(pyrazin-2-yl)phenyl)-1H-isoindol-3-amine acetate | 0.083 g, 48.5% yield | C(C)(=O)O.FC1=C2C(=NC(C2=CC=C1)(C1=CC(=CC=C1)C1=NC=CN=C1)C1=CC(=NC=C1)OC)N | InChI=1S/C24H18FN5O.C2H4O2/c1-31-21-13-17(8-9-29-21)24(18-6-3-7-19(25)22(18)23(26)30-24)16-5-2-4-15(12-16)20-14-27-10-11-28-20;1-2(3)4/h2-14H,1H3,(H2,26,30);1H3,(H,3,4)
